US07291619B2
1-Boc-4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazine
To a solution of 1-Boc-4-(hydroxymethyl-phenyl)-piperazine (300 mg, 1.02 mmol, 1.0 eq.), 1,2,4 triazole (104 mg, 1.53 mmol, 1.5 eq.), triphenylphosphine (535 mg, 2.04 mmol, 2.0 eq.) and THF at 0° C. under nitrogen was added DEAD (0.321 mL, 2.04 mmol, 2.0 eq.) slowly so that temperature of reaction does not rise above 10° C. After addition was completed, the ice bath was removed and the reaction mixture was stirred at r.t. overnight. Methanol was added and the mixture was stirred for about 15 minutes. The mixture was then concentrated. Purification by flash chromatography (35 g SiO2, linear gradient 50-70% EtOAc/Hexane for 15 minutes and 70% EtOAc for 18 minutes) afforded Boc protected title compound (200 mg, 0.5 mmol, 57%). LRMS (ESI+): 344.1 (M+1)

reactant | 1-Boc-4-(hydroxymethyl-phenyl)-piperazine | 1.02 mmol, 300 mg, 1.0 eq. | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CO | C16H24N2O3
reactant | 1,2,4 triazole | 1.53 mmol, 104 mg, 1.5 eq. | N1N=CN=C1 | C2H3N3
reactant | triphenylphosphine | 2.04 mmol, 535 mg, 2.0 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 2.04 mmol, 0.321 mL, 2.0 eq. | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 1-Boc-4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazine | 0.5 mmol, 200 mg, 57% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)CN1N=CN=C1 | C18H25N5O2
